US05077409
1-[[4-[Acetyl[[4-(tetradecyloxy)phenyl]methyl]amino]phenyl]methyl]-3,4-dimethylpyridinium bromide
A mixture of 1.5 g of N-[4-(bromomethyl)phenyl]-N-[[4-(tetradecyloxy)phenyl]methyl]acetamide and 908.82 mg of 3,4-lutidine in 25 ml of acetonitrile is refluxed for 5 hours. The solvent is evaporated, the residue stirred with ether and the solid collected by centrifugation. The solid is washed with ether and vacuum dried to give 1.3 g of the desired product as a gummy solid, m.p. 124°-127° C.

reactant | N-[4-(bromomethyl)phenyl]-N-[[4-(tetradecyloxy)phenyl]methyl]acetamide | 1.5 g | BrCC1=CC=C(C=C1)N(C(C)=O)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C30H44BrNO2
reactant | 3,4-lutidine | 908.82 mg | N1=CC(=C(C=C1)C)C | C7H9N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-[[4-[Acetyl[[4-(tetradecyloxy)phenyl]methyl]amino]phenyl]methyl]-3,4-dimethylpyridinium bromide | 1.3 g | [Br-].C(C)(=O)N(C1=CC=C(C=C1)C[N+]1=CC(=C(C=C1)C)C)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | InChI=1S/C37H53N2O2.BrH/c1-5-6-7-8-9-10-11-12-13-14-15-16-27-41-37-23-19-35(20-24-37)30-39(33(4)40)36-21-17-34(18-22-36)29-38-26-25-31(2)32(3)28-38;/h17-26,28H,5-16,27,29-30H2,1-4H3;1H/q+1;/p-1
